US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzylamino)piperidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 5, making variation as required to use (4-(trifluoromethyl)phenyl)methanamine in place of 2-cyclopropylethanamine to react with N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide in place of 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 20% yield: mp 39-40° C. (diethyl ether); 1H NMR (300 MHz, CDCl3) δ 7.55 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 7.39-7.21 (m, 5H), 6.03 (t, J=5.6 Hz, 1H), 4.55 (d, J=5.6 Hz, 2H), 4.32-4.21 (m, 1H), 4.06-3.96 (m, 1H), 3.93 (s, 2H), 3.50-3.39 (m, 1H), 2.62 (s, 3H), 2.30-2.05 (m, 2H), 1.99-1.83 (m, 2H), 1.81-1.66 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 171.4, 162.5, 156.6, 152.0, 143.8, 137.9, 129.4, 128.8, 128.3, 127.9, 127.7, 125.5, 125.4, 119.7, 57.9, 50.9, 47.5, 44.1, 26.5, 20.4, 17.4; MS (ES+) m/z 503.3 (M+1).

reactant | (4-(trifluoromethyl)phenyl)methanamine | FC(C1=CC=C(C=C1)CN)(F)F | C8H8F3N
reactant | N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)Br)=O)C | C17H18BrN3O2S
product | N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzylamino)piperidin-1-yl)thiazole-5-carboxamide | 20% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)NCC1=CC=C(C=C1)C(F)(F)F)=O)C | C25H25F3N4O2S
